US07795288B2
4-(2-Dimethylamino-ethoxy)-phenylamine
The title compound is prepared as described in Example 1 for 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine but using 1-chloro-2-dimethylaminoethane hydrochloride. Title compound: ES-MS: 181.2 [M+H]+; Rf=0.18 (CH2Cl2/MeOH, 70/30).

reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 1-chloro-2-dimethylaminoethane hydrochloride | Cl.ClCCN(C)C
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(2-Dimethylamino-ethoxy)-phenylamine | CN(CCOC1=CC=C(C=C1)N)C | C10H16N2O
